US07319103B2
9-(4-Benzyloxy-phenyl)-1,2,3,4-tetrahydro-acridine
A mixture of 9-chloro-1,2,3,4-tetrahydro-acridine (282 mg, 1.30 mmol), 4-Benzyloxyphenyl boronic acid (443 mg, 1.94 mmol), tetrakistriphenylphosphine palladium (15 mg, 0.01 mmol), and 2 M aq Na2CO3 (0.97 mL, 1.94 mmol) was heated to 80° C. in 1,2-dimethoxyethane (2 mL) with vigorous stirring overnight in a sealed vial. The reaction mixture was cooled to room temperature and partitioned between EtOAc (50 mL) and H2O (10 mL). The aq. layer was extracted with EtOAc (25 mL). The combined organic layers were washed with sat. aq. NaCl (25 mL), dried over Na2SO4, filtered, and concentrated. The residue was triturated with hexanes (50 mL) and to give a mixture of the desired product and starting chloride, which was used without further purification.

reactant | 9-chloro-1,2,3,4-tetrahydro-acridine | 1.30 mmol, 282 mg | ClC=1C2=CC=CC=C2N=C2CCCCC12 | C13H12ClN
reactant | 4-Benzyloxyphenyl boronic acid | 1.94 mmol, 443 mg | C(C1=CC=CC=C1)OC1=CC=C(C=C1)B(O)O | C13H13BO3
reactant | Na2CO3 | 1.94 mmol, 2 M, 0.97 mL | C(=O)([O-])[O-].[Na+].[Na+]
solvent | 1,2-dimethoxyethane | 2 mL | COCCOC | C4H10O2
product | 9-(4-Benzyloxy-phenyl)-1,2,3,4-tetrahydro-acridine | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C=1C2=CC=CC=C2N=C2CCCCC12 | C26H23NO
